US08183381B2
Step 3: (4-((6-(1H-Tetrazol-1-yl)pyridin-3-yloxy)methyl)-1H-1,2,3-triazol-1-yl)methyl pivalate
To a solution of azidomethyl pivalate (4.26 g, 27.1 mmol) in 1:1 tert-butanol water (90 mL total) was added 5-(prop-2-ynyloxy)-2-(1H-tetrazol-1-yl)pyridine (5.45 g, 27.1 mmol), sodium ascorbate (1.4 mL of a 1M solution in water) and copper sulfate (1.4 mL of a 1M solution in water). The solution was stirred at room temperature for 72 hours. Water was added and the suspension was extracted with ethyl acetate. The organic layer was separated, dried over sodium sulfate, filtered and concentrated in vacuo to afford the expected product which was used in the next step without further purification. 1H NMR (DMSO-d6): δ 10.07 (1H, s), 8.43-8.41 (2H, m), 8.00 (1H, d, J=8.8 Hz), 7.88 (1H, dd, J=3.2, 8.8 Hz), 6.32 (2H, s), 5.38 (2H, s), 1.08 (9H, s).

reactant | azidomethyl pivalate | 27.1 mmol, 4.26 g | C(C(C)(C)C)(=O)OCN=[N+]=[N-] | C6H11N3O2
reactant | tert-butanol water | 90 mL | O.C(C)(C)(C)O
reactant | 5-(prop-2-ynyloxy)-2-(1H-tetrazol-1-yl)pyridine | 27.1 mmol, 5.45 g | C(C#C)OC=1C=CC(=NC1)N1N=NN=C1 | C9H7N5O
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | water | O | H2O
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
product | (4-((6-(1H-Tetrazol-1-yl)pyridin-3-yloxy)methyl)-1H-1,2,3-triazol-1-yl)methyl pivalate | C(C(C)(C)C)(=O)OCN1N=NC(=C1)COC=1C=NC(=CC1)N1N=NN=C1 | C15H18N8O3
